US08193182B2
3-((4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1611)(522 mg, 1 mmol) and (R)-but-3-yn-2-ol (84 mg, 1.2 mmol) were dissolved in anhydrous THF (40 mL). The mixture was degassed and back-filled with nitrogen three times. Pd(PPh3)2Cl2 (12 mg, 0.1 mmol), CuI (47 mg 0.25 mmol) and (i-Pr)2NH (505 mg, 5 mmol) were added sequentially. The resulting mixture was degassed and back-filled with argon three times and then stirred at reflux for 4 h. The mixture was allowed to cool to RT, filtered through silica gel (10 g) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (2-20% MeOH/DCM) to afford the product, 3 (R)-3-((4-amino-3-(3-hydroxybut-1-ynyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1802) (324 mg, 70% yield) as a slightly yellow solid.

reactant | 3-((4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 1 mmol, 522 mg | NC1=C2C(=NC=N1)N(N=C2I)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C2=C(C=CC=C2)C | C23H19IN6O
reactant | (R)-but-3-yn-2-ol | 1.2 mmol, 84 mg | C[C@H](C#C)O | C4H6O
reactant | (i-Pr)2NH | 5 mmol, 505 mg | N(C(C)C)C(C)C | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.25 mmol, 47 mg | [Cu]I
product | (R)-3-((4-amino-3-(3-hydroxybut-1-ynyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 324 mg, 70% yield | NC1=C2C(=NC=N1)N(N=C2C#C[C@@H](C)O)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C2=C(C=CC=C2)C | C27H24N6O2
